US09303023B2
To a solution of 5,6-dimethoxyindole (2.00 g, 11.29 mmol) in acetic acid (120 mL), sodium cyanoborohydride (2.13 g, 33.86 mmol) was added in portions (slightly exothermic). After stirring at rt for 1 h, DCM was added and the org. layer was washed with sat. NaHCO3-solution and brine. The org. layer was dried (MgSO4), filtered and the solvent was removed under reduced pressure to yield 5,6-dimethoxyindoline as a brown solid, which was stored in the freezer until it was used in step 4. LC-MS conditions B: tR=0.28 min, [M+H]+=180.23.

reactant | 5,6-dimethoxyindole | 11.29 mmol, 2.00 g | COC=1C=C2C=CNC2=CC1OC | C10H11NO2
reactant | sodium cyanoborohydride | 33.86 mmol, 2.13 g | C(#N)[BH3-].[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
product | 5,6-dimethoxyindoline | COC=1C=C2CCNC2=CC1OC | C10H13NO2
